US07776857B2
Synthesis of N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(chloro)phthalazin-1-amine
In a 150 mL pressure tube was dissolved 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine (6.1 g, 23 mmol) in tBuOH (75 mL). To this solution was added 1,4-dichlorophthalazine (10.0 g, 50 mmol) and the mixture was placed in pre-heated oil bath at 100° C. A thick clay formed at the bottom of the tube after 20 minutes. LCMS on solid at the bottom of the tube showed mainly desired product with trace amounts of starting material. This solid material was dissolved and transferred to a flask using hot 90/10/1 (CH2Cl2/MeOH/ammonium hydroxide), and evaporated to dryness. The crude was dissolved in CH2Cl2 and washed with sat. sodium bicarbonate. The organic layer was separated and dried over sodium sulfate, and then concentrated. The mixture was then dissolved in approx. 30/70 MeOH/CH2Cl2, silica was added and the mix was concentrated to dryness. This silica pre-absorbed material was purified using 0 to 100% 90/10/1 (CH2Cl2/MeOH/ammonium hydroxide) to afford the title compound. MS Found: [M+H]=430.0. Calc'd for C23H16ClN5O2: 429.9.

reactant | 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine | 23 mmol, 6.1 g | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C15H13N3O2
reactant | 1,4-dichlorophthalazine | 50 mmol, 10.0 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
solvent | tBuOH | 75 mL | CC(C)(C)O | C4H10O
product | N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(chloro)phthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)Cl | C23H16ClN5O2
